US08404866B2
(±)-N-Boc-trans-3-azido-4-hydroxypyrrolidine.
A mixture of N-Boc-3-pyrroline oxide (0.925 g, 5.0 mmol), NaN3 (0.65 g, 10 mmol), and NH4Cl (5.0 mmol) in MeOH—H2O (6:1, 16 mL) was stirred at 65° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was extracted thoroughly with ethyl acetate. The combined ethyl acetate extract was washed with water and sat. brine, dried over anhydrous Na2SO4, and evaporated. The crude azidoalcohol was purified by recrystallization from ether-hexane: mp 34-36° C.; 1H NMR (300 MHz, CD3OD) δ 4.16 (m, 1H), 3.95 (m, 1H), 3.62 (m, 1H), 3.51 (m, 1H), 3.35 (m, 2H), 1.47 (s, 9H).

reactant | N-Boc-3-pyrroline oxide | 5.0 mmol, 0.925 g | C(=O)(OC(C)(C)C)[N+]1(CC=CC1)[O-] | C9H15NO3
reactant | NaN3 | 10 mmol, 0.65 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 5.0 mmol | [NH4+].[Cl-]
reactant | MeOH—H2O | 16 mL | CO.O
product | (±)-N-Boc-trans-3-azido-4-hydroxypyrrolidine | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)O)N=[N+]=[N-] | C9H16N4O3
